US07157455B2
The same procedure as described in Example 90 was used, starting from (4-amino-2-ethanesulfonyl-pyrimidin-5-yl)-(2,3-difluoro-6-methoxy-phenyl)-methanone, Example 103, and 1-methanesulfonyl-piperidin-4-ylamine (with trifluoro-acetic acid), Example 162, to give [4-amino-2-(1-methanesulfonyl-piperidin-4-ylamino)-pyrimidin-5-yl]-(2,3-difluoro-6-methoxy-phenyl)-methanone. MS (M+H)+, 442.

reactant | (4-amino-2-ethanesulfonyl-pyrimidin-5-yl)-(2,3-difluoro-6-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C(=CC=C1OC)F)F)S(=O)(=O)CC | C14H13F2N3O4S
reactant | 1-methanesulfonyl-piperidin-4-ylamine | CS(=O)(=O)N1CCC(CC1)N | C6H14N2O2S
product | [4-amino-2-(1-methanesulfonyl-piperidin-4-ylamino)-pyrimidin-5-yl]-(2,3-difluoro-6-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C(=CC=C1OC)F)F)NC1CCN(CC1)S(=O)(=O)C | C18H21F2N5O4S
